US04833054
In a round flask were charged 4.25 g (20.0 mmol) of o-tolidine, 50 g of potassium hydroxide, 500 mg of copper iodide, and 30 ml of n-dodecane, and the mixture was heated at 180° C. in a nitrogen stream. To the mixture was added dropwise 24.48 g (120 mmol) of iodobenzene, followed by allowing the mixture to react at 180° C. for 6 hours. Water was added thereto, and the mixture was extracted with toluene. The extract was dried over sodium sulfate and treated with activated carbon. The solvent was removed by distillation to obtain 6.30 g (yield: 60.9%) of N,N,N',N'-tetraphenyl-3,3'-dimethylbenzidine. Recrystallization from a mixed solvent of benzene/n-hexane gave 4.79 g (final yield: 46.3%) of a white crystal having a melting point of 175°-178° C.

reactant | o-tolidine | 20.0 mmol, 4.25 g | CC1=C(C=CC(=C1)C2=CC(=C(C=C2)N)C)N | C14H16N2
reactant | potassium hydroxide | 50 g | [OH-].[K+]
reactant | n-dodecane | 30 ml | CCCCCCCCCCCC | C12H26
reactant | iodobenzene | 120 mmol, 24.48 g | IC1=CC=CC=C1 | C6H5I
catalyst | copper iodide | 500 mg | [Cu](I)I
solvent | Water | O | H2O
product | N,N,N',N'-tetraphenyl-3,3'-dimethylbenzidine | 6.30 g, yield: 60.9% | C1(=CC=CC=C1)N(C1=C(C=C(C=C1)C1=CC(=C(N(C2=CC=CC=C2)C2=CC=CC=C2)C=C1)C)C)C1=CC=CC=C1 | C38H32N2
